.include osu018p.lib
m1 bl pclk net-_m1-pad3_ net-_m1-pad3_ pfet W=0.9u L=0.18u M=1
m3  net-_m1-pad3_ pclk blbar net-_m1-pad3_ pfet W=0.9u L=0.18u M=1
m2  blbar pclk bl net-_m1-pad3_ pfet W=0.9u L=0.18u M=1
v1 net-_m1-pad3_ gnd  dc 1.8V
v2  pclk gnd pulse(0 1.8V 0.1ns 1ns 1ns 30ns 60ns)
.tran 2e-12 100e-09 0e-09

* Control Statements 
.control
run
plot pclk
plot bl
plot blbar
.endc
.end
